US06096710
Boc-Gly-Nleu-Pro-OH (1.1 g, 2.85 mmol.), NH4Cl (0.5 g, 8.6 mmol.) and HOBt (0.5 g, 3.7 mmol.) were dissolved in DMF and the solution was chilled to 0° C. on a water-ice bath. Triethylamine (1.4 ml) was added slowly while stirring the solution. After 10 minutes, EDC (0.73 g, 3.7 mmol.) was added to the solution and the stirring continued overnight. The DMF was removed under reduced pressure and the resulting mixture was poured into 300 ml ethyl acetate. The ethyl acetate solution was washed by H2O 2×10 ml, saturated NaHCO3 2×10 ml, brine 2×10 ml, saturated NaHSO4 2×10 ml and brine again until the pH of the brine layer was approximate 7. The organic layer was dried using Na2SO4 and the ethyl acetate was distilled under reduced pressure to obtain the product Boc-Gly-Nleu-Pro-NH2. The Boc group of this product was removed in 30 ml solution of 30% TFA in DCM. The deprotection reaction was allowed to proceed for 40 minutes. The DCM and TFA was removed under reduced pressure and benzene 3×20 ml was added and distilled to remove trace TFA. The product TFA salt of Gly-Nleu-Pro-NH2 was dissolved in 100 ml ethyl ether and the solution was chilled to 0° C. HCl/dioxane (4N) was added to the solution until no more precipitation was seen. The ether was removed by filtration to obtain the product (white solid, 0.65 g, 69%). Analytical HPLC profile, single peak, RT=10.5 min. (8-40% B in 30 min.). FAB-MS, observed (M+H)+ =285. 1H-NMR (500 MHz, DMSO-d6, 27° C., assignment by TOCSY) δ 8.15 (s, 3H, NH3+), 7.70 (s, C-terminal NH2), 7.58 (s, C-terminal NH2), 7.38 (s, C-terminal NH2), 7.26 (s, C-terminal NH2), 7.23 (s, C-terminal NH2), 6.92 (m, C-terminal NH2), 4.38 (m, Pro-α), 4.30 (s, Nleu-α), 4.26 (s, Nleu-α), 4.22-4.13 (m, Nleu-α, Pro-α), 4.10 (s, Nleu-α), 4.07 (s, Nleu-α), 3.81 (m, Gly-α), 3.73-3.63 (m, Nleu-α, Gly-α), 3.61-3.55 (m, Gly-α, Pro-δ), 3.43 (m, Pro-δ), 3.17-2.97 (m, 2H, Nleu-β), 2.23-1.62 (m, 5H, Nleu-γ, Pro-β, Pro-γ), 0.83 (m, 6H, methyl of Nleu-δ).

reactant | Boc-Gly-Nleu-Pro-OH | 2.85 mmol, 1.1 g | N(CC(=O)N[C@@H](CCCC)C(=O)N1[C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C18H31N3O6
reactant | NH4Cl | 8.6 mmol, 0.5 g | [NH4+].[Cl-]
reactant | HOBt | 3.7 mmol, 0.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 3.7 mmol, 0.73 g
solvent | DMF | CN(C)C=O | C3H7NO
solvent | Triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
product | Boc-Gly-Nleu-Pro-NH2 | N(CC(=O)N[C@@H](CCCC)C(=O)N1[C@H](C(=O)N)CCC1)C(=O)OC(C)(C)C | C18H32N4O5
